### PR TITLE
feat(CategoryTheory): add dinatural transformations

### PR DESCRIPTION
**Pull request by iwilare**
A starting point to define [dinatural transformations](https://ncatlab.org/nlab/show/dinatural+transformation).

This is my first PR so style comments and improvements are very welcome!

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by joelriou** [comment]
I shall have a look at the details of this PR later. As this is not a most standard categorical notion, I am only wondering whether you have plans to use that for future works, and if so you could add a `## Future works` section in this file.

File: Mathlib/CategoryTheory/DinatTrans.lean [hunk 1]
```diff
@@ -0,0 +1,92 @@
...
+
+universe v₁ v₂ v₃ v₄ u₁ u₂ u₃ u₄
+
+variable {C : Type u₁} [Category.{v₁} C] {D : Type u₂} [Category.{v₂} D]
+
+open Opposite
+
+/-- Dinatural transformations between two (di)functors.
+-/
+structure DinatTrans (F G : Cᵒᵖ × C ⥤ D) : Type max u₁ v₂ where
```
Comment (joelriou) [inline Mathlib/CategoryTheory/DinatTrans.lean:37]: In `mathlib`, the preferred spelling for "bifunctor" are functors `F G : Cᵒᵖ ⥤ C ⥤ D` to a category of functors. Could you consider using this instead? (This may make easier the formulation of `dinaturality` also.)

File: Mathlib/CategoryTheory/DinatTrans.lean [hunk 2]
```diff
@@ -0,0 +1,92 @@
...
+/-- Post-composition with a natural transformation.
+-/
+def DinatTrans.nat_comp (δ : F ⤞ G) (α : G ⟶ H) : F ⤞ H
+    where
+  app X := δ.app X ≫ α.app (op X, X)
+  dinaturality f := by
+    simp;
+    rw [←α.naturality]
+    rw [reassoc_of% δ.dinaturality f]
+    rw [←α.naturality]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/DinatTrans.lean:74]:
```suggestion
    dsimp
    rw [Category.assoc, Category.assoc, ← α.naturality, δ.dinaturality_assoc f, ← α.naturality]
```
We should refrain from using "nonterminal simp". If we have to do some `rw` after a plain `simp`, we should use the output of `simp?`. (Note that in order to make my suggestion work, the attribute `reassoc` should be added to the `dinaturality` lemma.

File: Mathlib/CategoryTheory/DinatTrans.lean [hunk 3]
```diff
@@ -0,0 +1,92 @@
...
+/-- Opposite of a difunctor.
+-/
+@[simp]
+def Functor.diop (F : Cᵒᵖ × C ⥤ D) : Cᵒᵖ × C ⥤ Dᵒᵖ := op_prod ⋙ F.op
+
+variable {F G H : Cᵒᵖ × C ⥤ D}
+
+/-- Post-composition with a natural transformation.
+-/
+def DinatTrans.nat_comp (δ : F ⤞ G) (α : G ⟶ H) : F ⤞ H
```
Comment (joelriou) [inline Mathlib/CategoryTheory/DinatTrans.lean:67]: As this is a definition, we should not use `_` but use a suitable capitalisation like `natComp`, even though here I would prefer `precompNatTrans` because this is in the `DinatTrans` namespace.

**Review by joelriou — CHANGES_REQUESTED** [review]
Overall, this looks good to me, especially for a first PR! After some modifications, it should be fine. My only reluctance about merging this PR is whether we have active plans to use these definitions (is it related to coends? etc).

File: Mathlib/CategoryTheory/DinatTrans.lean [hunk 4]
```diff
@@ -0,0 +1,92 @@
...
+/-- Opposite of a product category.
+-/
+@[simp]
+def op_prod : (Cᵒᵖ × C) ⥤ (Cᵒᵖ × C)ᵒᵖ where
+  obj := λ ⟨Cop,C⟩ => op ⟨op C, Cop.unop⟩
+  map := λ ⟨f,g⟩ => op ⟨g.op, f.unop⟩
+
+/-- Opposite of a difunctor.
+-/
+@[simp]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/DinatTrans.lean:60]:
```suggestion
@[simps]
```
By using `simps` instead of `simp`, we do not automatically simplify terms like `F.diop`, but only `F.diop.obj`, `F.diop.map`, etc.

File: Mathlib/CategoryTheory/DinatTrans.lean (hunk 1 above)
Comment (iwilare) [reply Mathlib/CategoryTheory/DinatTrans.lean:37]: I tried at first using that, but the actions on objects and morphisms become a bit complicated (I have no idea how to express it without an ad-hoc helper to compose twice to act on the first morphism and then the second), and most importantly stray from the usual category-theoretic notation... I found no other definition for `Bifunctors` other than [this](https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/CategoryTheory/Products/Bifunctor.lean), which seems to be using the product definition along with [`hom`](https://github.com/leanprover-community/mathlib4/blob/master/Mathlib/CategoryTheory/Functor/Hom.lean).

File: Mathlib/CategoryTheory/DinatTrans.lean (hunk 2 above)
Comment (iwilare) [reply Mathlib/CategoryTheory/DinatTrans.lean:74]: I copied the attribute setting from `NatTrans` to apply the suggestion, this works pretty nicely! Should `%reassoc_of` only be used only when an equation comes "externally", for example as assumption? (rather than coming internally as data of a structure)

Comment (iwilare) [reply Mathlib/CategoryTheory/DinatTrans.lean:74]: (Is there a general way to get the output of `simp?` in terms of `rw`? For example here `simp` uses it twice.)

Comment (iwilare) [reply Mathlib/CategoryTheory/DinatTrans.lean:74]: I also fixed the other definition with `erw` in the same style, but I don't see why `erw` is necessary in this case rather than just `rw`.

File: Mathlib/CategoryTheory/DinatTrans.lean (hunk 4 above)
Comment (iwilare) [reply Mathlib/CategoryTheory/DinatTrans.lean]: Added `@[simps!]` as per the warning.

File: Mathlib/CategoryTheory/DinatTrans.lean (hunk 3 above)
Comment (iwilare) [reply Mathlib/CategoryTheory/DinatTrans.lean]: I added `@[simps]` to each definition for composition along with `op`, not sure if they are all good ideas...

**Comment by iwilare** [comment]
Maybe we should first merge #8150 first and then remove the old `op_prod`.

**Comment by iwilare** [comment]
> Overall, this looks good to me, especially for a first PR! After some modifications, it should be fine. My only reluctance about merging this PR is whether we have active plans to use these definitions (is it related to coends? etc).

Yes, I'm planning to use these for coends shortly after! I have some material about coends ready to PR soon :-)

File: Mathlib/CategoryTheory/DinatTrans.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/DinatTrans.lean:37]: There is little API for "bifunctor" as functors from a product category because there is a focus on functors to a category of functors. I do not see any problem with the following:
```lean
structure DinatTrans (F G : Cᵒᵖ ⥤ C ⥤ D) where
  app (X : C) : (F.obj (op X)).obj X ⟶ (G.obj (op X)).obj X
  dinaturality {X Y : C} (f : X ⟶ Y) :
    (F.map f.op).app X ≫ app X ≫ (G.obj (op X)).map f =
      (F.obj (op Y)).map f ≫ app Y ≫ (G.map f.op).app Y
```
In order to develop the API using this definition, it may become convenient to use some lemmas like `NatTrans.app_naturality` or `NatTrans.naturality_app`.

File: Mathlib/CategoryTheory/DinatTrans.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/DinatTrans.lean]: Yes, `reassoc_of%` should be mostly used only on terms are assumptions in the local context. Otherwise, it is better to fix the attributes of the lemma and add the `reassoc` attribute to it.

File: Mathlib/CategoryTheory/DinatTrans.lean (hunk 1 above)
Comment (iwilare) [reply Mathlib/CategoryTheory/DinatTrans.lean]: I switched to this representation by defining some helpers in Bifunctor, let me know what you think!

File: Mathlib/CategoryTheory/DinatTrans.lean [hunk 5]
```diff
@@ -0,0 +1,94 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Andrea Laretto
+-/
+import Mathlib.CategoryTheory.Category.Basic
+import Mathlib.CategoryTheory.Functor.Basic
+import Mathlib.CategoryTheory.Functor.Category
+import Mathlib.CategoryTheory.Opposites
+import Mathlib.CategoryTheory.Products.Basic
+import Mathlib.Tactic.CategoryTheory.Reassoc
+import Mathlib.CategoryTheory.Products.Bifunctor
```
Comment (joelriou) [inline Mathlib/CategoryTheory/DinatTrans.lean:12]: The import are not optimal: you should remove from the list the files that are imported by other imports.

File: Mathlib/CategoryTheory/Products/Bifunctor.lean [hunk 6]
```diff
@@ -57,3 +58,72 @@ theorem diagonal' (F : C × D ⥤ E) (X X' : C) (f : X ⟶ X') (Y Y' : D) (g : Y
...
+
+end CategoryTheory.Functor
+
+/- Utilities to apply functors into functor categories. -/
+namespace CategoryTheory.Functor
+
+-- We would like to keep these opaque in order to avoid leaking implementation details.
+
+/- Action of two-variable functors on objects. -/
+def obj2 (H : C ⥤ D ⥤ E) (A : C) (B : D) : E := (H.obj A).obj B
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Products/Bifunctor.lean:77]: This seems like a good idea to me, but it has to be an abbreviation, and I would suggest using small indices (type "\2" is VSCode):
```suggestion
def obj₂ (H : C ⥤ D ⥤ E) (A : C) (B : D) : E := (H.obj A).obj B
```

File: Mathlib/CategoryTheory/Products/Bifunctor.lean [hunk 7]
```diff
@@ -57,3 +58,72 @@ theorem diagonal' (F : C × D ⥤ E) (X X' : C) (f : X ⟶ X') (Y Y' : D) (g : Y
...
+    F.obj2 X Y ⟶ G.obj2 X Y :=
+  (α.app X).app Y
+
+/- Apply a natural transformation between bifunctors in three variables to three objects. -/
+def app3 {H G : C ⥤ D ⥤ E ⥤ F} (α : NatTrans H G) (X : C) (Y : D) (Z : E) :
+    H.obj3 X Y Z ⟶ G.obj3 X Y Z :=
+  ((α.app X).app Y).app Z
+
+@[simp]
+def naturality2 {H G : C ⥤ D ⥤ E} (α : NatTrans H G) {X Y X' Y'} (f : X ⟶ X') (g : Y ⟶ Y') :
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Products/Bifunctor.lean:110]:
```suggestion
@[reassoc (attr := simp)]
lemma naturality₂ {H G : C ⥤ D ⥤ E} (α : H ⟶ G) {X Y X' Y'} (f : X ⟶ X') (g : Y ⟶ Y') :
```
Even though they are definitionally equal, I think it is better to use `H ⟶ G` instead of `NatTrans H G`.

File: Mathlib/CategoryTheory/Products/Bifunctor.lean [hunk 8]
```diff
@@ -57,3 +58,72 @@ theorem diagonal' (F : C × D ⥤ E) (X X' : C) (f : X ⟶ X') (Y Y' : D) (g : Y
...
+  unfold Functor.map3 NatTrans.app3 Functor.obj2
+  rw [Category.assoc]
+  rw [NatTrans.naturality]
+  have := congrArg (λ α => α.app Z) (naturality2 α f g)
+  dsimp at this
+  unfold NatTrans.app2 at this
+  rw [reassoc_of% this]
+
+attribute [reassoc (attr := simp)] naturality2
+attribute [reassoc (attr := simp)] naturality3
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Products/Bifunctor.lean:127]:
```suggestion
```
This can be done at declaration time.

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 7 above)
Comment (iwilare) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: I agree, done! I can change `naturality₂` and `naturality₃` but I can't do the same for `app₂` and `app₃`, how come?

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 6 above)
Comment (iwilare) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: I left `abbrev` for all expressions that are not constructed with a composition, but wouldn't it be better to hide the implementation details of `obj₂?`?

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 7 above)
Comment (iwilare) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: I just noticed that using `H ⟶ G` instead of `NatTrans` does not allow to use `α.naturality₂` as field notation... I guess it's because it needs instance resolution to solve the hom notation, so it does not include the definition as part of the fields of `NatTrans`, or something along these lines.

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 6 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: I think we should keep `obj₂`  as an abbrev. For the other definitions, I think the best solution would be to have also ` map₂` and ` map₃` as abbreviations (maybe even with `@[reducible]`?), and to have `naturality_app` as a global simp lemma (I hope this would not break too many things...), so that `naturality₂` could be proved `by simp` (and thus become not essential, even though we may keep it as a nonsimp lemma). And, in order to get `naturality₃` essentially automatically `by simp`, it would be sufficient to introduce another simp lemma `naturality_app_app`.

**Comment by Shamrock-Frost** [comment]
I talked to @iwilare via DM in zulip and she gave me the go ahead to finish off this PR

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 6 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: I thought `abbrev` was already `@[reducible]`? Maybe I'm misremembering. Regardless I've switched these to `abbrev`s. I don't think naturality is "directed" enough to be a good simp lemma; it seems likely we'll want to rewrite in different directions depending on the natural transformation

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 7 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: It is pretty awkward to not be able to use dot notation. I've kept the `NatTrans` argument while in the `NatTrans` namespace

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 6 above)
Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: Hm, if we mark `map₂, map₃` as `abbrev` then `reassoc` interacts very poorly with lemmas that mention `map₂`, `map₃` (eg `dinaturality_assoc`). Making them reducible makes sense if we expect that lemmas about `map₂, map₃` should be proved by reducing everything to `map` and using automation. But I'm not sure this is what we should design for? When working with bifunctors/profunctors we're likely going to want to think of `map₂` as an atom. I've reverted the change to `abbrev`s because I think it's more trouble than it's worth.

Comment (joelriou) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: In monoidal categories, `f ⊗ g` is thought as `(f ▷ _) ≫ (_ ◁ g)` since the refactor. Then, as a matter of consistency, I think that if it is possible not to use a `def`, and use `map₂` only as a reducible abbrev, this is the direction we should go.

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: Do we have analogues of ▷ and ◁ for the action of a bifunctor? If we add those then I think we could break up dinaturality like `μ_natural_left`/`μ_natural_right`. As is simp plays extremely poorly with `map₂`

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: Or I guess the analogue is just mapping with an identity argument. I'll try and see if dinaturality can be broken into two cases like I said

Comment (joelriou) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: I would say it is ` (H.map f).app D₁` and `(H.obj C₂).map g` which are in the definitions of `map₂`.

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 7 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: Then, please check that the simp lemmas work with `H ⟶ G`, and revert to `H ⟶ G` in case it does not.

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: If `map₂` is an abbrev we can't have `naturality₂`, `naturality₃` as simp lemmas (because they aren't in simp normal form). So this is vacuously true but I'm not sure the current state of things (no simp lemmas) is good. I think your suggestion to mark `naturality_app` and `naturality_app_app` as `simp` is a good one, and if we do so the following works (so presumably simp is able to determine that lemmas with a `NatTrans` argument apply to something of type `H ⟶ G`).
```
@[reassoc (attr:=simp)]
theorem naturality_app_app {G H : C ⥤ D ⥤ E ⥤ F} (T : NatTrans G H) (Z : E) 
    {X₁ Y₁ : C} {X₂ Y₂ : D} (f : X₁ ⟶ Y₁) (g : X₂ ⟶ Y₂) :
    (G.map f).app₂ X₂ Z ≫ ((G.obj Y₁).map g).app Z ≫ T.app₃ Y₁ Y₂ Z =
      T.app₃ X₁ X₂ Z ≫ (H.map₂ f g).app Z := by
  rw [naturality_app, ← Category.assoc, ← comp_app₂,
    naturality, comp_app₂, Category.assoc]
  rfl

example {G H : C ⥤ D ⥤ E ⥤ F} (T : G ⟶ H) (Z : E) {X₁ Y₁ : C}
    {X₂ Y₂ : D} (f : X₁ ⟶ Y₁) (g : X₂ ⟶ Y₂) :
    (G.map f).app₂ X₂ Z ≫ ((G.obj Y₁).map g).app Z ≫ T.app₃ Y₁ Y₂ Z =
      T.app₃ X₁ X₂ Z ≫ (H.map₂ f g).app Z := by
  simp
```

Maybe we can plan to mark `naturality_app` as a global simp lemmas after this PR?

Comment (joelriou) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: > Maybe we can plan to mark `naturality_app` as a global simp lemmas after this PR?

I think this could be attempted in this PR.

For the rest, the abbreviations `app₂` and `app₃` are ok, but I think we should essentially get rid of `map₂` and `map₃`, and rely mostly on the already existing automation, with `naturality_app` as a global simp lemma and a new `naturality_app_app` in the following version:
```lean
@[reassoc (attr := simp)]
lemma naturality_app_app
    {G H : C ⥤ D ⥤ E ⥤ F} (T : NatTrans G H) (Y : D) (Z : E) {X X' : C} (f : X ⟶ X') :
    ((G.map f).app Y).app Z ≫ ((T.app X').app Y).app Z =
      ((T.app X).app Y).app Z ≫ ((H.map f).app Y).app Z :=
  congr_app (NatTrans.naturality_app T Y f) Z
```

Then, your version of `naturality_app_app` can be proven by `simp`.

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: I'm building with `naturality_app` marked as simp right now and it doesn't seem to break anything, and I like this version of `naturality_app_app`. However I feel mixed about removing `map₂` and `map₃`. As is they play very poorly with simp, but it's going to be really annoying to write out the definition of `map₂` every time you work with a bifunctor. I think for right now I'll remove them, but if/when we get around to adding profunctors and (co)ends I think this might need to be revisited

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: I've pushed this version of the code. By the way, could `naturality_app`, `naturality_app_app`, `naturality_app_app_app`, ... be a `simproc`? I don't know enough about `simproc`s to say if this would be a good idea

File: Mathlib/CategoryTheory/Products/Bifunctor.lean [hunk 9]
```diff
@@ -56,3 +58,56 @@ theorem diagonal' (F : C × D ⥤ E) (X X' : C) (f : X ⟶ X') (Y Y' : D) (g : Y
...
+    H.obj₃ X Y Z ⟶ G.obj₃ X Y Z :=
+  ((α.app X).app Y).app Z
+
+/- Natural transformations between functors with many variables. -/
+namespace NatTrans
+
+@[reassoc]
+lemma comp_app₂ {H G K : C ⥤ D ⥤ E} (α : H ⟶ G) (β : G ⟶ K) (X : C) (Y : D) :
+    (α ≫ β).app₂ X Y = α.app₂ X Y ≫ β.app₂ X Y :=
+  by rw [app₂, comp_app, comp_app]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Products/Bifunctor.lean:98]: Untested, but it should a `rfl` lemma, so that users may do `dsimp [comp_app₂]`
```suggestion
    (α ≫ β).app₂ X Y = α.app₂ X Y ≫ β.app₂ X Y := rfl
```
(Untested: this one may be a good `simp` lemma.)

Comment (joelriou) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean:98]: (Same for `comp_app₃`.)

Comment (Shamrock-Frost) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: Good points, I've tagged them as `simp`. Using `@[reassoc, simp]` over `@[reassoc (attr := simp)]` is intentional, the linter complains about the latter

File: Mathlib/CategoryTheory/DinatTrans.lean [hunk 10]
```diff
@@ -0,0 +1,85 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Andrea Laretto
+-/
+import Mathlib.CategoryTheory.Products.Bifunctor
+
+/-!
+# Dinatural transformations
+
+Dinatural transformations are special kinds of transformations between
+functors `F G : Cᵒᵖ × C ⥤ D` which depend both covariantly and contravariantly
```
Comment (joelriou) [inline Mathlib/CategoryTheory/DinatTrans.lean:12]:
```suggestion
functors `F G : Cᵒᵖ ⥤ C ⥤ D` which depend both covariantly and contravariantly
```

File: Mathlib/CategoryTheory/Functor/Category.lean [hunk 11]
```diff
@@ -85,7 +85,7 @@ theorem app_naturality {F G : C ⥤ D ⥤ E} (T : F ⟶ G) (X : C) {Y Z : D} (f
   (T.app X).naturality f
 #align category_theory.nat_trans.app_naturality CategoryTheory.NatTrans.app_naturality
 
-@[reassoc]
+@[reassoc (attr:=simp)]
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Functor/Category.lean:88]: We are supposed to put spaces around infix operators:
```suggestion
@[reassoc (attr := simp)]
```

File: Mathlib/CategoryTheory/Products/Bifunctor.lean (hunk 9 above)
Comment (joelriou) [reply Mathlib/CategoryTheory/Products/Bifunctor.lean]: Yes, `@[simp, reassoc]` is standard when compositions appear only in the RHS.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
